US04753953
7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-8-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 8-chloro-1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.25 g), cis-3-t-butoxycarbonylamino-4-methylpyrrolidine (0.21 g), DBU (0.15 g) and anhydrous acetonitrile (4 ml) was refluxed for 2.5 hours. Then, the reacting mixture was treated as described in example 22 to give the title compound (0.1 g) as white powder, mp 222°-224° C. (decompd.).

reactant | 8-chloro-1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.25 g | ClC=1C(=C(C=C2C(C(=CN(C12)CC)C(=O)O)=O)F)F | C12H8ClF2NO3
reactant | cis-3-t-butoxycarbonylamino-4-methylpyrrolidine | 0.21 g | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1C | C10H20N2O2
reactant | DBU | 0.15 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-8-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.1 g | N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1Cl)CC)C(=O)O)=O)F | C17H19ClFN3O3
